US07544697B2
A mixture of 1-butyl-5-methyl-1H-pyrazole-3-carboxamide (6.9 g, 38 mmol) and phosphorous oxychloride (34.0 mL) was heated at 90° C. under a nitrogen atmosphere for two hours and then allowed to cool to ambient temperature overnight. The reaction was poured into ice water (300 mL); concentrated ammonium hydroxide (115 mL) was added. The mixture was extracted with chloroform (3×), and the combined extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 6.58 g of 1-butyl-5-methyl-1H-pyrazole-3-carbonitrile as a pale yellow oil.

reactant | 1-butyl-5-methyl-1H-pyrazole-3-carboxamide | 38 mmol, 6.9 g | C(CCC)N1N=C(C=C1C)C(=O)N | C9H15N3O
reactant | phosphorous oxychloride | 34.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | 115 mL | [OH-].[NH4+]
product | 1-butyl-5-methyl-1H-pyrazole-3-carbonitrile | 6.58 g | C(CCC)N1N=C(C=C1C)C#N | C9H13N3
